US07560467B2
(a) 3-(2-furanyl)-N-1H-indazol-5-yl-3-oxopropanamide
Ethyl 2-(fur-2-oyl)acetate (3 mL) was mixed with 5-aminoindazole (0.50 g) and heated in a SmithSynthesizer to 180° C. for 300 seconds. The crude mixture was then purified by silica gel chromatography to yield the title compound as a light purple solid. 1H NMR (keto tautomer) (400 MHz, DMSO-D6) δ ppm 12.99 (s, 1H), 10.22 (s, 1H), 8.11 (s, 1H), 8.05 (s, 1H), 8.02 (s, 1H), 7.58 (d, 1H), 7.49 (d, 1H), 7.40 (dd, 1H), 6.77 (dd, 1H), 3.96 (s, 2H). MS m/z 270 (M+1)+.

reactant | Ethyl 2-(fur-2-oyl)acetate | 3 mL | O1C(=CC=C1)C(=O)CC(=O)OCC | C9H10O4
reactant | 5-aminoindazole | 0.50 g | NC=1C=C2C=NNC2=CC1 | C7H7N3
product | 3-(2-furanyl)-N-1H-indazol-5-yl-3-oxopropanamide | O1C(=CC=C1)C(CC(=O)NC=1C=C2C=NNC2=CC1)=O | C14H11N3O3
